US08859588B2
Thiophene-2-carboxylic acid [2-methyl-6-((2S,3′R)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-yl]-amide
To a solution of 2-methyl-6-[(3R)-3-[(2S)-2-methylpyrrolidin-1-yl]pyrrolidin-1-yl]pyridin-3-amine (22.7 mg, 0.09 mmol) in DCE (1 mL) was added pyridine (0.22 mL, 2.7 mmol) followed by a solution of thiophene-2-carbonyl chloride (40 mg, 0.27 mmol) in DCE (1 mL) and stirred at ambient temperature for 5 hours. To this mixture was then added trisamine resin (200 mg, 0.8 mmol, 4 mmol/g loading), stirred for 30 min, filtered and concentrated to afford a crude solid which was purified by flash column chromatography (5% 7N NH3 in MeOH/CH2Cl2) to obtain 7.8 mg of the title compound.

reactant | 2-methyl-6-[(3R)-3-[(2S)-2-methylpyrrolidin-1-yl]pyrrolidin-1-yl]pyridin-3-amine | 0.09 mmol, 22.7 mg | CC1=NC(=CC=C1N)N1C[C@@H](CC1)N1[C@H](CCC1)C | C15H24N4
reactant | pyridine | 2.7 mmol, 0.22 mL | N1=CC=CC=C1 | C5H5N
reactant | thiophene-2-carbonyl chloride | 0.27 mmol, 40 mg | S1C(=CC=C1)C(=O)Cl | C5H3ClOS
reactant | trisamine | 0.8 mmol, 200 mg | C(C(CO)(CO)N)O | C4H11NO3
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
solvent | DCE | 1 mL | ClCCCl | C2H4Cl2
product | Thiophene-2-carboxylic acid [2-methyl-6-((2S,3′R)-2-methyl-[1,3′]bipyrrolidinyl-1′-yl)-pyridin-3-yl]-amide | 7.8 mg | CC1=NC(=CC=C1NC(=O)C=1SC=CC1)N1C[C@@H](CC1)N1[C@H](CCC1)C | C20H26N4OS
